US05110956
[{1-(6-Ethyl-1,3-benzodioxol-5-yl)propyl}thio]acetic acid
4.0 g of ethyl [{1-(6-ethyl-1,3-benzodioxol-5-yl)propyl}thio]acetate and 2.6 g of sodium hydroxide were dissolved in a mixture comprising 20 ml of water and 20 ml of ethanol. The obtained solution was heated under reflux for 2 hours and distilled to remove the ethanol. The residue was washed with ether. The aqueous layer was acidified and extracted with chloroform. The extract was washed with water, dried over magnesium sulfate and concentrated in a vacuum. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=2:8) to obtain 2.8 g of the title compounds as a colorless crystal.

reactant | ethyl [{1-(6-ethyl-1,3-benzodioxol-5-yl)propyl}thio]acetate | 4.0 g | C(C)C=1C(=CC2=C(OCO2)C1)C(CC)SCC(=O)OCC | C16H22O4S
reactant | sodium hydroxide | 2.6 g | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | [{1-(6-Ethyl-1,3-benzodioxol-5-yl)propyl}thio]acetic acid | 2.8 g | C(C)C=1C(=CC2=C(OCO2)C1)C(CC)SCC(=O)O | C14H18O4S
